US05005572
Cresol red was brominated with N-bromosuccinimide and was then coupled to amino glass. The sample was brown in aqueous NaOH and orange in aqueous HCl. Application of TBAH resulted in a color change to forest green which changed to olive green upon exposure to 5% CO2. The color response did not persist.

reactant | Cresol red | CC1=C(C=CC(=C1)C2(C3=CC=CC=C3S(=O)(=O)O2)C4=CC(=C(C=C4)O)C)O | C21H18O5S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HCl | Cl | ClH
solvent | NaOH | [OH-].[Na+]
product | TBAH | CCCC[N+](CCCC)(CCCC)CCCC.[OH-] | InChI=1S/C16H36N.H2O/c1-5-9-13-17(14-10-6-2,15-11-7-3)16-12-8-4;/h5-16H2,1-4H3;1H2/q+1;/p-1
